US03954771
200 g. N-formyl-2-phenyl-acetamide are dissolved in an inert atmosphere (nitrogen) in 1250 ml. concentrated sulfuric acid, while stirring and cooling in a bath of cold water in order to maintain the temperature at about 20°-25°C., whereafter the reaction mixture is left to stand for 4 hours at ambient temperature. The sulfuric acid solution is then poured, with stirring, into about 4 liters of a mixture of ice and water, the temperature not exceeding 50°C. The reaction mixture is then filtered through "Hyflo Super-Cel" a very pure diatomaceous silica filter-aid sold by Johns-Manville Sales Corp. (HYFLO is a Trade Mark). The filtrate obtained is poured, while stirring mechanically and cooling in ice (temperature of the reaction medium about 20°C.), into 3.5 liters concentrated ammonium hydroxide solution. The yellow precipitate of 2H-3-isoquinolone obtained is filtered off, washed with water and dried. There are obtained 72 g. of product; m.p. 201°C.; yield 40% of theory.

reactant | N-formyl-2-phenyl-acetamide | C(=O)NC(CC1=CC=CC=C1)=O | C9H9NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | 3.5 liters | [OH-].[NH4+]
solvent | water | O | H2O
product | 2H-3-isoquinolone | yield 40% | C=1NC(C=C2C=CC=CC12)=O | C9H7NO
